US07309715B2
Synthesis of 2,5-dichloro-N-(2-methyl-benzooxazol-5-yl)-benzenesulfonamide, STX 846 (KRB01016):
To a solution of 2,5-dichlorobenzenesulphonyl chloride (52 mg, 0.21 mmol) in dichloromethane (1.5 mL) was added pyridine (40 μL, 0.5 mmol) and the mixture was stirred under N2 for 5 min, after which time 5-amino-2-methylbenzoxazole (30 mg, 0.20 mmol) was added. The resulting mixture was stirred for 1 h at room temperature, then saturated NaHCO3 solution was added (8 mL) and the mixture was extracted into ethyl acetate (15 mL). The organic phase was washed with brine, dried (Na2SO4), filtered and evaporated to give a residue that was purified using flash chromatography to afford a pale pink solid (45 mg, 63%), single spot at Rf 0.53 (1:1 hexane:ethyl acetate). mp 193.5-193.9° C., HPLC purity 98% (tR 2.27 min in 10% water-acetonitrile). 1H NMR (CDCl3): δ 7.86 (1H, d, J=2.2 Hz), 7.39 (4H, m), 7.12 (1H, dd, J=8.4, 1.8 Hz), 2.58 (3H, s). LCMS: 355.07 (M−). FAB-MS (MH+, C14H10Cl2N2O3S): calcd 356.9867, found 356.9878.

reactant | 2,5-dichlorobenzenesulphonyl chloride | 0.21 mmol, 52 mg | ClC1=C(C=C(C=C1)Cl)S(=O)(=O)Cl | C6H3Cl3O2S
reactant | pyridine | 0.5 mmol, 40 μL | N1=CC=CC=C1 | C5H5N
reactant | 5-amino-2-methylbenzoxazole | 0.20 mmol, 30 mg | NC=1C=CC2=C(N=C(O2)C)C1 | C8H8N2O
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | dichloromethane | 1.5 mL | ClCCl | CH2Cl2
product | 2,5-dichloro-N-(2-methyl-benzooxazol-5-yl)-benzenesulfonamide | 45 mg, 63% | ClC1=C(C=C(C=C1)Cl)S(=O)(=O)NC=1C=CC2=C(N=C(O2)C)C1 | C14H10Cl2N2O3S
